US09216999B2
Phenyl 1,3,4-thiadiazol-2-ylcarbamate
1,3,4-Thiadiazol-2-amine (253 mg, 2.50 mmol) in dimethylacetamide (3 mL) was stirred with phenyl chloroformate (392 μL, 3.13. mmol) at room temperature for one day. After addition of water, the precipitated solid was collected by filtration, washed with water and hexane and dried under reduced pressure to give the title compound as a colorless solid (418 mg, yield 76%).

reactant | 1,3,4-Thiadiazol-2-amine | 2.50 mmol, 253 mg | S1C(=NN=C1)N | C2H3N3S
reactant | phenyl chloroformate | 392 μL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | O | H2O
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
product | Phenyl 1,3,4-thiadiazol-2-ylcarbamate | 418 mg, yield 76% | S1C(=NN=C1)NC(OC1=CC=CC=C1)=O | C9H7N3O2S
